US07932251B2
The mixture of 3-(4-chloro-2-(trifluoromethyl)phenyl)propan-1-ol (1 g), tris(dibenzylideneacetone)dipalladium (0.192 g), tricyclohexylphosphine (0.141 g), potassium acetate (0.62 g) and, bis(pinacolato)diboron (1.17 g) in dried dioxane (15 ml) was heated at 80° C. for 6 hours. After diluting with ethyl acetate (100 ml), washing with water (100 ml), brine (100 ml), then drying over sodium sulphate, solvent was removed under reduced pressure, and the residue was columned on silica gel using heptane:EtOAc (4:1) as eluant to give 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenyl)propan-1-ol (1 g).

reactant | 3-(4-chloro-2-(trifluoromethyl)phenyl)propan-1-ol | 1 g | ClC1=CC(=C(C=C1)CCCO)C(F)(F)F | C10H10ClF3O
reactant | tricyclohexylphosphine | 0.141 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 0.62 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.17 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.192 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)phenyl)propan-1-ol | 1 g | CC1(OB(OC1(C)C)C1=CC(=C(C=C1)CCCO)C(F)(F)F)C | C16H22BF3O3
